US09421205B2
(g) tert-Butyl 4-(4-((4-(2-(3-oxoisoindolin-4-yl)ethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperazine-1-carboxylate (I63)
tert-Butyl 4-(4-((4-((3-oxoisoindolin-4-yl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperazine-1-carboxylate (I62) (0.149 g, 0.258 mmol) was dissolved in dry DMF (6 mL) under an atmosphere of nitrogen. 20% Pearlman's catalyst (0.090 g) in EtOAc (6 mL) was added to the solution and the atmosphere was changed to hydrogen gas (balloon). The reaction was sealed with a balloon and stirred at room temperature for 18 hours at room temperature. The catalyst was removed by filtration through Celite, which was washed with EtOAc (5×10 mL). The solvent was removed in vacuo to give a yellow solid which was purified by silica gel chromatography (Biotage Isolera, 40 g Si Cartridge, 0-100% EtOAc in petroleum benzine 40-60° C., then 0-5% methanol in EtOAc) to give the title compound (I63) (0.084 g, 56% yield) as an off-white solid; 1H NMR (400 MHz, d6-DMSO) δ 9.98 (s, 1H), 8.57 (s, 1H), 8.48 (s, 1H), 7.62-7.55 (m, 2H), 7.44 (t, J=7.4 Hz, 1H), 7.38 (d, J=7.3 Hz, 1H), 7.17 (brd, J=6.0 Hz, 1H), 6.92 (d, J=9.0 Hz, 2H), 4.31 (s, 2H), 3.56 (t, J=7.6 Hz, 2H), 3.51-3.41 (m, 4H), 3.12 (t, J=7.5 Hz, 2H), 3.08-2.98 (m, 4H), 1.42 (s, 9H). LCMS Method A: rt 5.86 min; m/z 583.5 [M+H]+.

reactant | tert-Butyl 4-(4-((4-((3-oxoisoindolin-4-yl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperazine-1-carboxylate | 0.258 mmol, 0.149 g | O=C1NCC2=CC=CC(=C12)C#CC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C30H29F3N6O3
reactant | hydrogen | [H][H] | H2
reactant | methanol | CO | CH4O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
catalyst | Pearlman's catalyst | 0.090 g | [OH-].[OH-].[Pd+2]
solvent | EtOAc | 6 mL | CCOC(=O)C | C4H8O2
product | tert-Butyl 4-(4-((4-(2-(3-oxoisoindolin-4-yl)ethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperazine-1-carboxylate | 0.084 g, 56% yield | O=C1NCC2=CC=CC(=C12)CCC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C30H33F3N6O3
